US06573270B1
2-{[5({[4-(tert-butyl)phenyl]sulfonyl}amino)-4-iodo-1-methyl-1H-pyrazol-3-yl]oxy}ethyl acetate
To 2-{[5-({[4-(tert-butyl)phenyl]sulfonyl}amino)-1-methyl-1H-pyrazol-3-yl)oxy}ethyl acetate (Preparation 8) (1.15 g) in solution in tetrahydrofuran (200 ml) was added portionwise N-iodosuccinimide (18 g), at room temperature. The reaction mixture was stirred at room temperature for 2 hours. The reaction was then diluted with ethyl acetate (150 ml), water (50 ml) and brine (50 ml). A 1M solution of sodium metabisulphite (100 ml) was added and the organic layer separated. The organics were washed successively with a diluted solution of sodium metabisulphite (100 ml) and then brine (50 ml). The solution was dried on magnesium sulfate, filtered and concentrated under reduced pressure to yield the desired product as an off pink solid (33.6 g)

reactant | 2-{[5-({[4-(tert-butyl)phenyl]sulfonyl}amino)-1-methyl-1H-pyrazol-3-yl)oxy}ethyl acetate | 1.15 g | C(C)(=O)OCCOC1=NN(C(=C1)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)C | C18H25N3O5S
reactant | N-iodosuccinimide | 18 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | sodium metabisulphite | 100 ml | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
solvent | brine | 50 ml | [Cl-].[Na+].O
product | 2-{[5({[4-(tert-butyl)phenyl]sulfonyl}amino)-4-iodo-1-methyl-1H-pyrazol-3-yl]oxy}ethyl acetate | C(C)(=O)OCCOC1=NN(C(=C1I)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)C | C18H24IN3O5S
